US09255089B2
n-BuLi (0.58 mL, 0.93 mmol) was added dropwise to a solution of 1,3-difluorobenzene (0.102 mL, 0.1 mmol) in THF (5 mL) cooled to −78° C. and allowed to stir for 1 hour. tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-formyl-1H-benzo[d]imidazole-1-carboxylate (200 mg, 0.52 mmol) in THF was added and the reaction was allowed to stir for 5 mins at −78° C., quenched with ammonium chloride, extracted with EtOAc and concentrated. The crude was then taken up in DCM (2 mL), Des-Martin periodinane (290 mg, 0.78 mmol) was added and the reaction was allowed to stir for 15 mins. The reaction was quenched with sat. Na2S2O3, extracted with EtOAc, concentrated and purified by silica gel chromatography to give tert-butyl 4-(2,6-difluorobenzoyl)-6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazole-1-carboxylate.

reactant | n-BuLi | 0.93 mmol, 0.58 mL | [Li]CCCC
reactant | 1,3-difluorobenzene | 0.1 mmol, 0.102 mL | FC1=CC(=CC=C1)F | C6H4F2
reactant | tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-formyl-1H-benzo[d]imidazole-1-carboxylate | 0.52 mmol, 200 mg | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C=O)C | C20H23N3O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(2,6-difluorobenzoyl)-6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazole-1-carboxylate | FC1=C(C(=O)C2=CC(=CC=3N(C(=NC32)OCC)C(=O)OC(C)(C)C)C=3C(=NOC3C)C)C(=CC=C1)F | C26H25F2N3O5
